US08309721B2
7.7 ml of 1N hydrochloric acid are added to a solution of 0.79 g of 2-methylpropan-2-yl 4-[4-(6-cyanopyridin-3-yl)-9H-carbazol-9-yl]-2-[(1,2,2,6,6-pentamethylpiperidin-4-yl)amino]benzoate in 5 ml of dioxane. The reaction mixture is heated at 100° C. in a microwave for 2 hours and then concentrated under reduced pressure. The residue is purified by silica gel chromatography, elution being carried out with a mixture of dichloromethane and methanol (95/5 by volume), so as to give 280 mg of 4-[4-(6-cyanopyridin-3-yl)-9H-carbazol-9-yl]-2-[(1,2,2,6,6-pentamethylpiperidin-4-yl)amino]benzoic acid in the form of a pale yellow powder, the characteristics of which are the following:

reactant | hydrochloric acid | 1N, 7.7 ml | Cl | ClH
reactant | 2-methylpropan-2-yl 4-[4-(6-cyanopyridin-3-yl)-9H-carbazol-9-yl]-2-[(1,2,2,6,6-pentamethylpiperidin-4-yl)amino]benzoate | 0.79 g | C(#N)C1=CC=C(C=N1)C1=CC=CC=2N(C3=CC=CC=C3C12)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)NC1CC(N(C(C1)(C)C)C)(C)C | C39H43N5O2
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 4-[4-(6-cyanopyridin-3-yl)-9H-carbazol-9-yl]-2-[(1,2,2,6,6-pentamethylpiperidin-4-yl)amino]benzoic acid | 280 mg | C(#N)C1=CC=C(C=N1)C1=CC=CC=2N(C3=CC=CC=C3C12)C1=CC(=C(C(=O)O)C=C1)NC1CC(N(C(C1)(C)C)C)(C)C | C35H35N5O2
